2153-01-05 06:07:00 Physician Resident Progress Note
CCU Intern Progress Note:
   24-hour events:
   - chest-pain free, comfortable
   - on IABP 1:1
   - INR 1.6, reversed urgently w Vit K 10mg SC for surgery in Am
   - surgery postponed for further liver workup
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2153-1-5**] 04:16 AM
   Other medications:
   Flowsheet Data as of  [**2153-1-5**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 69 (63 - 73) bpm
   BP: 143/51(107) {102/40(79) - 165/77(121)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
    PAP: (70 mmHg) / (23 mmHg)
   Mixed Venous O2% Sat: 75 - 75
   PAP  60s-70s/20s
   IABP:
   Augmented diast: 154
   Assist syst: 142
   Total In:
                                                                    136 mL
                                                                    123 mL
   PO:
   TF:
   IVF:
                                                                    136 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    835 mL
   Urine:
                                                                  1,595 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,359 mL
                                                                   -712 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   GENERAL: Elderly petite woman, NAD, laying flat comfortably.
   HEENT: NCAT. Alopecia. Sclera anicteric. PERRL, EOMI. Conjunctiva were
   pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, JVP ~12cm.  No carotid bruits
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR.
   IABP in place with loud systolic murmur and prominent S2, loudest in
   abdomen.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. Unable to ascultate abdominal bruits over IABP
   EXTREMITIES: No c/c/e. No femoral bruits. PA catheter in place in r
   groin, no ooze.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  DP 2+ PT 2+
   Left:  DP 2+ PT 2+
   Labs / Radiology
   136 K/uL
   12.2 g/dL
   119 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.0 mEq/L
   23 mg/dL
   99 mEq/L
   140 mEq/L
   35.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2153-1-4**]  05:26 PM
                             [**2153-1-5**]  12:24 AM
                             [**2153-1-5**]  04:22 AM
   WBC
   8.3
   9.3
   Hct
   33.9
   35.7
   35.7
   Plt
   135
   136
   Cr
   1.2
   1.2
   Glucose
   101
   119
   Other labs: PT / PTT / INR:17.7/60.5/1.6, Ca++:9.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   72F w HTN, HL, COPD, originally p/w worsening SOB, was found to have
   3vCAD and elevated PCWP, now awaiting CABG.
   # Elevated INR: 1.7, repeat 1.6. Vitamin K given. Unclear etiology.
   - check LFTs
   - trend INR
   # CORONARIES: 3vCAD w occluded LAD, stenotic LM, proximal RCA and PDA,
   evaluated by CT Surgery for CABG.
   - IABP in place 1:1
   - heparin gtt
   - ASA 325 daily
   - metoprolol 50 [**Hospital1 **]
   - atorvastatin 20 daily
   - awaiting CABG
   # PUMP:  Likely chronic systolic CHF. EF 40%, evidence systolic and
   severe biventricular diastolic dysfunction on ECHO/cath. Not
   decompensated. Pt relatively asymptomatic with markedly elevated PCWP
   (~43).  Optimized hemodynamics prior to surgery w diuresis.
   - PA catheter in place for tailored therapy
   - ACEi on hold pre-surgery
   - Vasodilation with NTG
   # RHYTHM:  NSR. Monitor on tele
   - continue metoprolol
   # COPD
   -Standing ipratropium inhaler
   -Prn albuterol inhaler
   -IS at bedside
   # HTN:
   -metoprolol
   -NTG gtt
   -hydral for afterload reduction
   -holding home verapamil for now
   -hold ACEI in setting of dye load, cr 1.3 and pre-CABG as above.
   # Hyperlipidemia. Pt carries dx of elevated lipids, on recent PCP labs,
   LDL low at 62, low HDL 33.  Has been on fibrate therapy for "years" for
   unclear reasons.  In setting of low HDL, and for peri-operative med
   optimization will start low dose statin.
   -Atorvastatin 20mg daily
   -repeat lipids
   # Depression - Continue home dose fluoxetine, 20mg TID confirmed with
   pt and pharmacy.
   FEN:NPO except meds/sips for now. NPO after MN for surgery. Otherwise
   low sodium diet, fluid restricted.
   ACCESS: PIV's, PA catheter
   PROPHYLAXIS:  bowel regimen, on hep gtt
   CODE: FULL
   DISPO: to CT [**Doctor First Name 3**] post-op
   Contact: [**Name (NI) **] [**Name (NI) 3750**], cell [**Telephone/Fax (1) 3749**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2153-1-4**] 01:23 PM
   PA Catheter - [**2153-1-4**] 01:23 PM
   Sheath - [**2153-1-4**] 01:23 PM
   20 Gauge - [**2153-1-4**] 01:23 PM
   22 Gauge - [**2153-1-4**] 01:23 PM
   18 Gauge - [**2153-1-5**] 12:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: